US07902187B2
6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7-methyl-7H-purin-8(9H)-one.
A solution of 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-7-methyl-9-(trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)-7H-purin-8(9H)-one (0.06 mmol) and PPTS (5 mg) in ethanol/water (4.5 mL/0.5 mL) was stirred at reflux for 1 h. The solvent was evaporated in vacuo and the residue could be purified by chromatography or used in the next step without purification. MS (EI) m/z 417.0 (MH)+.

reactant | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-7-methyl-9-(trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)-7H-purin-8(9H)-one | 0.06 mmol | ClC1=C2N(C(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CC[C@H](CC2)OC2OCCCC2)=O)C | C24H26ClFN6O3
reactant | PPTS | 5 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | ethanol water | 4.5 mL | C(C)O.O
product | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7-methyl-7H-purin-8(9H)-one | ClC1=C2N(C(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CC[C@H](CC2)O)=O)C | C19H18ClFN6O2
